US04401824
A solution of 0.037 g 2-bromo-6-formyl-anisole in 1 ml methylene chloride is treated with 0.54 sodium dibasic phosphate and 1.3 ml trifluoroperacetic acid, stirred overnight, treated with 10% aqueous sodium carbonate (5 ml) and 5 ml diethyl ether, stirred for 1.5 hours, and partitioned between water and ether. The ether portion is extracted with 1 N aqueous sodium hydroxide, the hydroxide extracts acidified and then extracted with ether. Concentration of the ether extracts affords 3-bromo-2-methoxyphenol.

reactant | 2-bromo-6-formyl-anisole | 0.037 g | BrC1=C(C(=CC=C1)C=O)OC | C8H7BrO2
reactant | sodium | [Na] | Na
reactant | trifluoroperacetic acid | 1.3 ml | FC(C(=O)OO)(F)F | C2HF3O3
reactant | sodium carbonate | 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3-bromo-2-methoxyphenol | BrC=1C(=C(C=CC1)O)OC | C7H7BrO2
